US03996197
77 g of 2,5-dihydroxybenzoic acid and 78.5 g of p-chloronitrobenzene were dissolved in 300 ml of dimethyl sulphoxide under a nitrogen atmosphere, and 40 g of sodium hydroxide and 225 ml of benzene were added to the resulting solution. The mixture was then distilled under reflux at 90° to 95° C on a water separator until no more water was separated off (about 2 hours). The benzene was distilled off in a water jet vacuum, the residue poured into 2.5 liters of water, the mixture acidified with concentrated hydrochloric acid while stirring vigorously, the crude, pale brown 5-(4-nitrophenoxy)-salicylic acid which was precipitated was filtered off under suction and washed acid free with water. Drying in vacuo at 80° C gave 126 g (92% of the theoretical yield) of 5-(4-nitrophenoxy)-salicylic acid, recrystallised from methanol (and active carbon, optionally with a little water added) 120 g (87% of the theoretical) of yellow crystals melting at 193° to 194° C.

reactant | 2,5-dihydroxybenzoic acid | 77 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | p-chloronitrobenzene | 78.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | benzene | 225 ml | C1=CC=CC=C1 | C6H6
solvent | dimethyl sulphoxide | 300 ml | CS(=O)C | C2H6OS
product | 5-(4-nitrophenoxy)-salicylic acid | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C(C(=O)O)=C2)O)C=C1 | C13H9NO6
